US08937177B2
1-(2-Methoxyethyl)-N,5-dimethyl-N-pyridazin-4-yltriazole-4-carboxamide (example III.7)
O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphat (HATU; 1.23 g, 3.24 mmol, 3.00 eq) and N-methylmorpholine (0.71 ml, 0.66 g, 6.5 mmol, 6.0 eq) was added to a solution of 1-(2-methoxyethyl)-5-methyltriazole-4-carboxylic acid (200 mg, 1.08 mmol) and N-methylpyridazin-4-amine (118 mg, 1.08 mmol, 1.00 eq) in DMF (2.5 ml) and the mixture was stirred at room temperature for 4 d. After removal of the solvent, the residue was dissolved in dichloromethane, washed twice with sat. aq. NaHCO3 sol. and once with brine and dried over Na2SO4. Removal of the solvent under vacuum and chromatographic purification (CH:EtOAc) gave the title compound as a brown oil (200 mg, 64%, 95% purity).

reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphat | 3.24 mmol, 1.23 g, 3.00 eq | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-methylmorpholine | 6.5 mmol, 0.71 ml, 0.66 g, 6.0 eq | CN1CCOCC1 | C5H11NO
reactant | 1-(2-methoxyethyl)-5-methyltriazole-4-carboxylic acid | 1.08 mmol, 200 mg | COCCN1N=NC(=C1C)C(=O)O | C7H11N3O3
reactant | N-methylpyridazin-4-amine | 1.08 mmol, 118 mg, 1.00 eq | CNC1=CN=NC=C1 | C5H7N3
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 1-(2-Methoxyethyl)-N,5-dimethyl-N-pyridazin-4-yltriazole-4-carboxamide | 200 mg | COCCN1N=NC(=C1C)C(=O)N(C1=CN=NC=C1)C | C12H16N6O2
